US08420655B2
3-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-1,2,4-triazol-1-yl-benzonitrile
To a solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (100 mg, 0.39 mmol) in DMF (5 mL) is added 3-formyl-4-1,2,4-triazol-1-yl-benzonitrile (115 mg, 0.58 mmol) at room temperature. Oxone (239 mg, 0.39 mmol) in H2O (1 mL) is added and the solution is stirred for 3 hours. Saturated sodium thiosulfate solution (5 mL) is added and the mixture is extracted with EtOAc (3×15 mL) and H2O (10 mL). The combined organic layer is dried (MgSO4), filtered and concentrated. The residue is purified by silica gel flash column chromatography eluting with 10% MeOH in CH2Cl2 eluent to afford the title compound (46 mg, 27%) as a white foam. LCMS (ESMS): m/z 436.72 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.39 mmol, 100 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 3-formyl-4-1,2,4-triazol-1-yl-benzonitrile | 0.58 mmol, 115 mg | C(=O)C=1C=C(C#N)C=CC1N1N=CN=C1 | C10H6N4O
reactant | Oxone | 0.39 mmol, 239 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
product | 3-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-1,2,4-triazol-1-yl-benzonitrile | 46 mg, 27% | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C=2C=C(C#N)C=CC2N2N=CN=C2)C(C)(C)C)C=C1 | C24H21N9
